US07572805B2
Part C. Isopropyl 2-formyl-6-(trifluoromethyl)benzoate
To a solution of (±)-3-hydroxy-7-(trifluoromethyl)isobenzofuran-1(3H)-one (2.2 g, 10.1 mmol) in 20 mL of DMF was added potassium carbonate (2.8 g, 20.2 mmol) followed by 2-iodopropane (1.11 mL, 11.1 mmol). The resulting mixture was allowed to stir at ambient temperature for 18 h. The reaction was diluted with 1N HCl to pH ˜4 and extracted with EtOAc. The organics were washed with 1N HCl, sat'd aq NaHCO3 and brine, dried (MgSO4), filtered through a pad of silica gel and concentrated in vacuo to afford 2.3 g (87%) of the title compound which was used without purification. 1H NMR (CDCl3): δ 10.08 (s, 1H), 8.12 (d, 1H, J=7.7 Hz), 7.95 (d, 1H, J=8.2 Hz), 7.73 (t, 1H, J=7.7 Hz), 5.44-5.36 (m, 1H), 1.40 (d, 1H, J=6.6 Hz).

reactant | (±)-3-hydroxy-7-(trifluoromethyl)isobenzofuran-1(3H)-one | 10.1 mmol, 2.2 g | OC1OC(C2=C(C=CC=C12)C(F)(F)F)=O | C9H5F3O3
reactant | potassium carbonate | 20.2 mmol, 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodopropane | 11.1 mmol, 1.11 mL | IC(C)C | C3H7I
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | HCl | 1N | Cl | ClH
product | Isopropyl 2-formyl-6-(trifluoromethyl)benzoate | 2.3 g, 87% | C(=O)C1=C(C(=O)OC(C)C)C(=CC=C1)C(F)(F)F | C12H11F3O3
